US08242130B2
In a 100 mL round-bottomed flask fitted with condenser and magnetic stirrer were placed 2-hydroxy-5-methoxymethyl acetophenone (1.62 g, 9.014 mmol), 4-methoxy-3-fluoro benzoyl chloride (1.7 g, 9.014 mmol) and pyridine (20 mL). The reaction mixture was stirred for 16 h at rt under nitrogen. The reaction mixture was poured into ice-water. The solids were filtered off, washed with water and dried to give the intermediate (2.33 g, 78%). To a solution of this intermediate (2.33 g, 7.01 m mol) in THF (50 mL), was added potassium t-butoxide (945 mg, 8.42 mmol) and the reaction mixture was stirred for 16 h at rt under N2. The reaction mixture was poured into saturated solution of NH4Cl. The organic layer was separated, washed with water, dried and concentrated to give crude intermediate diketone (2.3 g, 98.7%). The diketone compound (2.3 g, 6.92 mmol) was taken into a mixture of HCl (1 mL) and acetic acid (15 mL) and heated at 100° C. for 1 h. The reaction mixture was cooled to rt, diluted with water and extracted with ethyl acetate. The organic layer was washed with water, brine, dried and concentrated to give 1.75 g of the intermediate in 80.6% yield. In a 100 mL dry round-bottomed flask fitted with condenser and magnetic stirrer were placed this intermediate (925 mg, 2.94 mmol) in CH2Cl2 (30 mL). BBr3 (2.21 g, 8.83 mmol, 1M solution in CH2Cl2) was added slowly at 0° C. The reaction mixture was stirred for 16 h at rt under nitrogen. The reaction mixture was quenched by carefully adding methanol. The solvent was removed under reduced pressure and the resulting solid was washed with water and dried to give 1.0 g of crude 3′-fluoro-4′-methoxy-5-bromo methyl flavone in 97% yield. To a solution of 5-bromomethyl flavone (1.0 g, 2.86 mmol) in DMF (20 mL), potassium acetate (845 mg, 8.60 mmol) was added. The mixture was heated at 100° C. for 1 h. The reaction mixture was diluted with water and extracted with ethyl acetate. The combined organic layers were washed with water, brine, dried over Na2SO4 and concentrated to give crude acetyl flavone (810 mg, 86%). To a solution of the acetyl flavone (810 mg, 2.47 mmol) in methanol (15 mL), K2CO3 (1.02 g, 7.41 mmol) was added and the reaction mixture was stirred for 2 h at rt. The solvent was removed and the product was taken in to water and neutralized by dilute HCl. The solid was separated by filtration, washed with water and dried to give 2-(3-fluoro-4-hydroxyphenyl)-6-(hydroxymethyl)-4H-chromen-4-one in 38% yield. MS (ES) m/z: 286.96 (M); Mp. 256-258° C.

reactant | 5-bromomethyl flavone | 2.86 mmol, 1.0 g | BrCC1=C2C(C=C(OC2=CC=C1)C1=CC=CC=C1)=O | C16H11BrO2
reactant | potassium acetate | 8.60 mmol, 845 mg | C(C)(=O)[O-].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | acetyl flavone | 810 mg, 86% | C(C)(=O)C1=C(OC2=CC=CC=C2C1=O)C1=CC=CC=C1 | C17H12O3
